US06774130B2
To the stirring solution of (R)-3-(5-acetoxyhexyl)-6-amino-1-methyluracil (1.13 g, 4.0 mmol) in glacial acetic acid (22.5 ml) and water (7.5 ml) at 65° C. was added sodium nitrite (345 mg, 5.0 mmol) in portions. The pink mixture was stirred at 65° C. for 1 hour and then cooled to 0-5° C. After filtration, the violet solid was washed with water (2×10 ml) and then suspended in water (20 ml) and heated at 65° C. while sodium hydrosulfite (2.78 g, 16.0 mmol) was added in portions. The pale yellow solution was stirred at 65° C. for an additional 1 hour, cooled to room temperature and extracted with chloroform (3×25 ml). The combined extracts were dried over magnesium sulfate and filtered to provide crude (R)-3-(5-acetoxyhexyl)-5,6-diamino-1-methyluracil in chloroform. To this clear solution was added 1,1′-carbonyldiimidazole (650 mg, 4.0 mmol). After stirring overnight at room temperature, the mixture was washed with water (2×25 ml), with 1 N aqueous hydrochloric acid (2×25 ml), with water (2×25 ml), with saturated aqueous sodium chloride solution (25 ml) and then dried over magnesium sulfate. Evaporation of the solvent under reduced pressure provided the crude product which was purified by flash chromatography on silica gel eluting with ethyl acetate to provide (R)-1-(5-acetoxyhexyl)-3-methyluric acid (280 mg) as a beige solid which was dissolved in 20 ml of ethanol. To this solution was added hydrogen chloride in ethyl ether (1 M, 2.0 ml, 2.0 mmol). After refluxing overnight, the solvent was evaporated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with ethyl acetate-methanol (7:1) to provide (R)-1-(5-hydroxyhexyl)-3-methyluric acid (210 mg, 19% yield) as a beige solid.

reactant | (R)-3-(5-acetoxyhexyl)-6-amino-1-methyluracil | 4.0 mmol, 1.13 g | C(C)(=O)O[C@@H](CCCCN1C(N(C(=CC1=O)N)C)=O)C | C13H21N3O4
reactant | sodium nitrite | 5.0 mmol, 345 mg | N(=O)[O-].[Na+]
reactant | sodium hydrosulfite | 16.0 mmol, 2.78 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 22.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 7.5 ml | O | H2O
product | (R)-3-(5-acetoxyhexyl)-5,6-diamino-1-methyluracil | C(C)(=O)O[C@@H](CCCCN1C(N(C(=C(C1=O)N)N)C)=O)C | C13H22N4O4
